US06706751B2
In analogy to example 3.6, Allyl-methyl-[6-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-hexyl]-amine and 4-chlorobenzene sulfonylchloride were converted to yield Allyl-{5-[1-(4-chloro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-6-yloxy]-pentyl}-methyl-amine (70%) as light yellow oil, MS: 462 (M, 1Cl).

reactant | Allyl-methyl-[6-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-hexyl]-amine | C(C=C)N(CCCCCCOC=1C=C2CCCNC2=CC1)C | C19H30N2O
reactant | 4-chlorobenzene sulfonylchloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | Allyl-{5-[1-(4-chloro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinolin-6-yloxy]-pentyl}-methyl-amine | 70% | C(C=C)N(C)CCCCCOC=1C=C2CCCN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C24H31ClN2O3S
